US08633173B2
[5-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2-methoxyphenyl)-amine was prepared from 5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100 mg, 0.35 mmol) and 1-bromo-2-methoxy benzene (52 μL, 0.42 mmol) in a manner analogous to Example 77 to yield [5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2-methoxyphenyl)-amine (52 mg, 38%) as a yellow powder following purification on a 12 g Isco silica gel column using 0-5% methanol in dichloromethane as an eluent. MP=88° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.78 (br s, 1H), 8.79 (m. 1H), 8.36 (d, J=7.1 Hz, 1H), 8.20 (d, J=7.1 Hz, 1H), 8.12 (d, J=7.1 Hz, 1H), 8.00 (s, 1H), 7.89 (t, J=12.9, 8.2, 1H), 7.72 (m, 1H), 7.65 (d, J=9.4 Hz, 1H), 7.38 (d, J=8.2 Hz, 1H), 7.05 (d, J=5.9 Hz, 1H), 6.92 (m, 2H), 3.87 (s, 3H), 3.32 (s, 3H). MS=395 (MH)+.

reactant | 5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.35 mmol, 100 mg | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 1-bromo-2-methoxy benzene | 0.42 mmol, 52 μL | BrC1=C(C=CC=C1)OC | C7H7BrO
product | [5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2-methoxyphenyl)-amine | 52 mg, 38% | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=C(C=CC=C2)OC | C20H18N4O3S
